US07767704B2
Ethyl 4-nitro-1H-imidazole-2-carboxylate
16.08 g (114.7 mmol) of ethyl imidazole-2-carboxylate are dissolved in 71.7 ml of concentrated sulphuric acid while cooling in ice. Then 71.7 ml of 100% strength fuming nitric acid are added dropwise. The reaction solution is stirred at 50 to 60° C. for 3 h and, after cooling, poured into 800 ml of ice/water mixture. The crystals which separate out are filtered off with suction and washed with 1500 ml of ice-water.

reactant | ethyl imidazole-2-carboxylate | 114.7 mmol, 16.08 g | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 71.7 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 4-nitro-1H-imidazole-2-carboxylate | [N+](=O)([O-])C=1N=C(NC1)C(=O)OCC | C6H7N3O4
